US07105544B2
N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE
Example 129 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.53 (s, 1H), 7.42–7.38 (m, 1H), 7.31–7.20 (m, 2H), 6.94–6.83 (m, 4H), 6.46–6.40 (m, 1H), 3.19 (q, 2H, J=5.6 Hz), 2.85–2.79 (m, 2H), 2.73–2.64 (m, 1H), 2.49–2.38 (m, 3H), 2.22 (t, 2H, J=6.4 Hz), 1.94–1.84 (m, 5H), 1.75–1.47 (m, 9H), 1.17 (d, 6H, J=6.8 Hz); ESMS m/e: 512.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE | FC1=C(C=C(C=C1)NC(C(C)C)=O)C1CCN(CC1)CCCNC(=O)C1(CCCC1)C1=CC=C(C=C1)F | C30H39F2N3O2
